US09120749B2
[4-(4-Amino-4-methylcyclohexylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl](cyclopropyl)methanone
To a solution of cyclopropyl{4-[4-(diallylamino)-4-methylcyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}methanone (23 mg, 0.041 mmol) in dioxane (3 mL) was added Pd(PPh3)4 (5 mg, 0.004 mmol) and N,N-dimethylbartituric acid (32 mg, 0.205 mmol). The resultant mixture purged with N2 and heated to 80° C. for 16 h. The solution was allowed to cool to rt, diluted with ethyl acetate, filtered and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The purified product was concentrated, diluted with a saturated NaHCO3 solution, extracted with a mixture of CHCl3/isopropanol (3:1), and dried with Na2SO4 to obtain the desired product as the free base (5 mg, 25%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.39 (s, 1H), 8.45 (s, 1H), 8.28 (dd, J=8.7, 1.9 Hz, 1H), 8.01 (d, J=8.7 Hz, 1H), 7.73 (s, 2H), 4.76-4.72 (m, 1H), 2.89-2.85 (m, 1H), 2.33-2.25 (m, 2H), 2.09-1.97 (m, 4H), 1.96-1.89 (m, 2H), 1.45 (s, 3H), 1.41-1.18 (m, 4H); ESI MS m/z 484 [C26H27Cl2N3O2+H]+; HPLC 98.6% (AUC), tR=11.05 min.

reactant | cyclopropyl{4-[4-(diallylamino)-4-methylcyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}methanone | 0.041 mmol, 23 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1CCC(CC1)(C)N(CC=C)CC=C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H35Cl2N3O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.004 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(4-Amino-4-methylcyclohexylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl](cyclopropyl)methanone | NC1(CCC(CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1)C | C26H27Cl2N3O2
